US06455578B1
2,3-dihydro-2-methyl-4H-1-benzopyran-4-one (1.62 g) is dissolved in ethanol 95% (50 ml) and the solution is refluxed under stirring. In 10-15 minutes isoamylnitrite (8 ml) and concentrated HCl (40 ml) are added drop by drop. Heating and stirring are stopped, and the resulting mixture is allowed to stand ca. 2 hours. Then water (200 ml) is added until precipitation of a white solid. The solvent is evaporated, obtaining a solid product which is dissolved in a little volume of chloroform and purified on silica gel in equilibrium with the same solvent. The purified product contains a low percentage of yellow impurities which can be completely eliminated by crystallisation in acetone. The residual solvent is then eliminated, obtaining 0.97 g of 3-hydroxy-2-methyl-4H-1-benzopyran-4-one (colourless crystals; m.p.=179-180° C.; IR: 1632, 1666 e 3301 cm−1; yield=51%).

reactant | 2,3-dihydro-2-methyl-4H-1-benzopyran-4-one | 1.62 g | CC1OC2=C(C(C1)=O)C=CC=C2 | C10H10O2
reactant | isoamylnitrite | 8 ml | C(CC(C)C)ON=O | C5H11NO2
reactant | HCl | 40 ml | Cl | ClH
reactant | water | 200 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-hydroxy-2-methyl-4H-1-benzopyran-4-one | 0.97 g, yield=51% | OC1=C(OC2=C(C1=O)C=CC=C2)C | C10H8O3
